US09302991B2
<Step-5>:(R)—N-(1-(4-(2,2-difluoroethoxy)-3-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 84% yield (1.44 g, colorless oil) from 1-(4-(2,2-difluoroethoxy)-3-fluorophenyl)ethanone (1.16 g, 5.31 mmol, Step-4) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2-difluoroethoxy)-3-fluorophenyl)ethanone | 5.31 mmol, 1.16 g | FC(COC1=C(C=C(C=C1)C(C)=O)F)F | C10H9F3O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(4-(2,2-difluoroethoxy)-3-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 84% yield | FC(COC1=C(C=C(C=C1)C(C)N[S@](=O)C(C)(C)C)F)F | C14H20F3NO2S
